* SPICE3 file created from 5v_pfet_1_2.ext - technology: sky130A

X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=2 pd=6 as=2 ps=6 w=2 l=1
C0 B VSUBS 2.89812f
